US07932272B2
Quinoline-6-carboxylic acid (5-(3-cyano-phenoxy)-thiophen-2-ylmethyl)-amide
Next, to a solution of the mixture of quinoline-6-carboxylic acid (5-(3-bromophenoxy)-thiophene-2ylmethyl)-amide and debrominated compound (130 mg, 0.303 mmol) in N,N-dimethylformamide (5.0 mL) were added zinc cyanide (71 mg, 0.605 mmol) and tetrakis(triphenylphosphine)palladium(0) (70 mg, 0.061 mmol) under nitrogen atmosphere, the solution was stirred at 100° C. for 1 hour, and the solution was stirred at 140° C. for 3 hours. The reaction solution was allowed to room temperature, ethyl acetate and water were added to the reaction solution, which was then partitioned, the organic layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was evaporated, then, the residue was purified by NH silica gel column chromatography (hexane:ethyl acetate), and title compound (25 mg, 21%) was obtained as a colorless oil.

reactant | quinoline-6-carboxylic acid (5-(3-bromophenoxy)-thiophene-2ylmethyl)-amide | BrC=1C=C(OC2=CC=C(S2)CNC(=O)C=2C=C3C=CC=NC3=CC2)C=CC1 | C21H15BrN2O2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
reactant | N,N-dimethylformamide | 5.0 mL | CN(C=O)C | C3H7NO
catalyst | zinc cyanide | 0.605 mmol, 71 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.061 mmol, 70 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Quinoline-6-carboxylic acid (5-(3-cyano-phenoxy)-thiophen-2-ylmethyl)-amide | 25 mg, 21% | C(#N)C=1C=C(OC2=CC=C(S2)CNC(=O)C=2C=C3C=CC=NC3=CC2)C=CC1 | C22H15N3O2S
